US05563163
The 2-t-butyl-4,5,6,7-tetrahydro-4,7-methano-1,2-benzisothiazol-3(2H)one 1,1-dioxide (2.8 g, 0.011 mol) in trifluoroacetic acid (30 mL) was heated at reflux for 48 hr and let stand at room temperature for 4 days. The resulting mixture was concentrated in vacuo, treated with methanol (20 mL) and evaporated to dryness. The residue was taken up in ether (100 mL) and washed with saturated NaHCO3 (1×50 mL). The layers were separated, the aqueous phase acidified to pH 1 with 2N HCl and extracted with MDC (2×100 mL). The combined organic extracts were dried and concentrated in vacuo to give 0.9 g (42%) of the bicyclo (2.2.1) saccharin derivative as a white solid.

reactant | 2-t-butyl-4,5,6,7-tetrahydro-4,7-methano-1,2-benzisothiazol-3(2H)one 1,1-dioxide | 0.011 mol, 2.8 g | C(C)(C)(C)N1S(C2=C(C1=O)C1CCC2C1)(=O)=O | C12H17NO3S
solvent | trifluoroacetic acid | 30 mL | FC(C(=O)O)(F)F | C2HF3O2
product | saccharin | S1(=O)(=O)NC(=O)C2=CC=CC=C12 | C7H5NO3S
